US04195021
Benzhydryl 2-(3-phenoxyacetamido-2-oxoazetidin-1-yl)-3-methyl-4-(1-methyl-5-tetrazolylthio)-2-butenoate
To a stirred solution of 563 mg (1 mmol) of benzhydryl 2-(3-phenoxyacetamido-2-oxoazetidin-1-yl)-3-methyl-4-bromo-2-butenoate in a mixture of 2 ml propylene oxide and 4 ml of dimethylformamide at 0° was added 128 mg (1.1 mmol) of 1-methyl-5-mercapto-1,2,3,4-tetrazole. After 1 hour at 0°, the solution was added to a large amount of ethyl acetate and washed thoroughly with brine. The ethyl acetate layer was dried and evaporated to provide the title product: nmr (CDCl3) δ 2.20 and 2.37 (s, 3, CH3), 3.83 and 3.86 (s, 3, N--CH3), 4.43 (s, 2, --CH2S--), 5.88 (d, 2, C4 --H), 5.50 (q, 1, C3 --H), 4.57 (s, 2, side chain CH2) and 7.2 (b, ArH).

reactant | benzhydryl 2-(3-phenoxyacetamido-2-oxoazetidin-1-yl)-3-methyl-4-bromo-2-butenoate | 1 mmol, 563 mg | O(C1=CC=CC=C1)CC(=O)NC1C(N(C1)C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=C(CBr)C)=O | C29H27BrN2O5
reactant | 1-methyl-5-mercapto-1,2,3,4-tetrazole | 1.1 mmol, 128 mg | CN1N=NN=C1S | C2H4N4S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | propylene oxide | 2 ml | C1C(C)O1 | C3H6O
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | Benzhydryl 2-(3-phenoxyacetamido-2-oxoazetidin-1-yl)-3-methyl-4-(1-methyl-5-tetrazolylthio)-2-butenoate | O(C1=CC=CC=C1)CC(=O)NC1C(N(C1)C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=C(CSC1=NN=NN1C)C)=O | C31H30N6O5S
